US04665217
(B) Preparation of 1,2-bis[4-(2-hydroxyethoxyethoxy)-phenyl]-1,1,2,2-tetrafluoroethane
700 ml of diethylene glycol and 65 g of 1,2-bis(4-fluorophenyl)-1,1,2,2-tetrafluoroethane* are heated to 130° C. in a stirred flask and 57 g of potassium tert.-butylate are added in portions. The mixture is then heated to 150° C. and stirred at this temperature for 2 hours. The mixture is cooled, poured onto 4 liters of ice-water and mixed thoroughly with a homogenizer (Ultraturax), until crystals precipitate. The precipitate is filtered off with suction, stirred again with 3 liters of water, acidified with hydrochloric acid, filtered off with suction again, dried and recrystallized from toluene.

reactant | 1,2-bis(4-fluorophenyl)-1,1,2,2-tetrafluoroethane | 65 g | FC1=CC=C(C=C1)C(C(F)(F)C1=CC=C(C=C1)F)(F)F | C14H8F6
reactant | diethylene glycol | 700 ml | C(COCCO)O | C4H10O3
product | 1,2-bis[4-(2-hydroxyethoxyethoxy)-phenyl]-1,1,2,2-tetrafluoroethane | OCCOCCOC1=CC=C(C=C1)C(C(F)(F)C1=CC=C(C=C1)OCCOCCO)(F)F | C22H26F4O6
